US04966905
4-[2-(2,3-Dihydro-2,2-dimethyl-3-oxo-5-furanyl)ethenyl]benzonitrile
A solution of 2,2,5-trimethyl-3(2H)-furanone (1.5 g, 11.9 mM), 4-cyanobenzaldehyde (1.7 g, 13.1 mM) and 1N aqueous sodium hydroxide (1.2 mL, 1.2 mM) in ethanol (50 mL) was stirred 24 hours at room temperature. The reaction mixture was diluted with saturated aqueous sodium chloride (200 mL) and extracted with diethyl ether (3×100 mL). The combined ethereal extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give a yellow solid. The crude product was purified by column chromatography (silica gel, 9:1, hexane-ethyl acetate) to afford pale yellow crystals (1.5 g, 53% yield), m.p. 169.5°-170.5° C.

reactant | 2,2,5-trimethyl-3(2H)-furanone | 11.9 mM, 1.5 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | 4-cyanobenzaldehyde | 13.1 mM, 1.7 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | sodium hydroxide | 1N, 1.2 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | sodium chloride | 200 mL | [Cl-].[Na+]
product | 4-[2-(2,3-Dihydro-2,2-dimethyl-3-oxo-5-furanyl)ethenyl]benzonitrile | 1.5 g, 53% yield | CC1(OC(=CC1=O)C=CC1=CC=C(C#N)C=C1)C | C15H13NO2
